US08975264B2
Step 1: Preparation of 3-(4-methylphenyl)-7-(3-fluorophenyl)-2-methylpyrazolo[1,5-a]pyrimidin-5(4H)-one (Chemical Formula 51)
3-Methyl-4-(4-methylphenyl)-1H-pyrazol-5-amine and ethyl 3-(3-fluorophenyl)-3-oxopropanoate are stirred overnight in a pyridine (10 mL) solvent at 95° C. After cooling to room temperature, the reaction solvent is removed by distillation under reduced pressure. The remainder is extracted with ethyl acetate and water. The extracted organic layer is washed with brine and dehydrated with anhydrous MgSO4. The dehydrated organic layer is distilled under reduced pressure and purified by column chromatography to yield the target compound.

reactant | 3-Methyl-4-(4-methylphenyl)-1H-pyrazol-5-amine | CC1=NNC(=C1C1=CC=C(C=C1)C)N | C11H13N3
reactant | ethyl 3-(3-fluorophenyl)-3-oxopropanoate | FC=1C=C(C=CC1)C(CC(=O)OCC)=O | C11H11FO3
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 3-(4-methylphenyl)-7-(3-fluorophenyl)-2-methylpyrazolo[1,5-a]pyrimidin-5(4H)-one | CC1=CC=C(C=C1)C=1C(=NN2C1NC(C=C2C2=CC(=CC=C2)F)=O)C | C20H16FN3O
